US08729221B2
(S)-2-Ethylhexan-1-ol (M1)
To 1000 ml of phosphate buffer (0.1 M, HK2PO4/H2KPO4 with 95/5 in mol/mol, pH˜8.0) was added yeast (200 g, Sigma Aldrich) and sucrose (10 g, Thermo FiSEHr Scientific Inc.), and the mixture was stirred for 2 hrs. Then pentane (1500 ml) was added followed by adding 2-ethylidenehexanal (10.0 g, 79.2 mmol, TCI). The mixture was stirred for 2 days. Then the mixture was divided into batches of 300 ml each, and separated by centrifuging, and the yeast and water phase was extracted with pentane. After volatiles were removed, 12.0 g of yellowish oil was collected, with the crude product yield over 100%. GC and GC/MS analysis indicated an impurity of about 40% (˜4.8 g) while starting materials were less than 2%. The impurity was judged to be 2-ethylidenehexan-1-ol based on GC/MS results (with m/z of 128). The crude product was dissolved in dichloromethane and cooled down to 0° C., meta-chloroperoxybenzoic acid (MCPBA) (6.46 g, 37.5 mmol) was added, and the reaction was stirred at 0° C. for 1 hr. Then the reaction was poured into deionized water, the organic phase was extracted with dichlormethane, and then the organic phase was dried over sodium sulfate. The volatiles of the organic phase were removed under reduced pressure, and the resulted dark oil was separated by flash column chromatography with pentane/dichloromethane (1/1 in v/v). The over all yield was 50%. 1H NMR (500 MHz, CDCl3) δ (ppm): 3.58 (d, J=5.05 Hz, 2H), 1.44-1.24 (m, 10H), 0.92 (t, J=7.15 Hz, 6H). GC/MS: calcd for C8H18O (m/z): 130.14. found 130. [α]D=+3.1° (Concentration of 1.2 g/100 ml in acetone, 25° C.). ([Ref]: [α]D=+ 3.1°, e.e. =96%, C. R. G. Grenier, S. J. George, T. J. Joncheray, E. W. Meijer, and J. R. Reynolds, J. Am. Chem. Soc. 2007, 129, 10694-10699.

reactant | meta-chloroperoxybenzoic acid | 37.5 mmol, 6.46 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
reactant | water | O | H2O
reactant | dichloromethane | ClCCl | CH2Cl2
product | (S)-2-Ethylhexan-1-ol | C(C)[C@H](CO)CCCC | C8H18O
